.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' typical
.param sw_stat_mismatch=1

.subckt strongarm_comparator VDD VSS INP INN CLK OUTP OUTN
XMTAIL SN CLK VSS VSS nfet_03v3 L=0.5u W=9.1u nf=1
XMINN SN_P INN SN VSS nfet_03v3 L=0.7u W=3u nf=1
XMINP SN_N INP SN VSS nfet_03v3 L=0.7u W=3u nf=1
XMLATN OUTN OUTP SN_N VSS nfet_03v3 L=0.5u W=2.3u nf=1
XMLATP OUTP OUTN SN_P VSS nfet_03v3 L=0.5u W=2.3u nf=1
XMPLTN OUTN OUTP VDD VDD pfet_03v3 L=0.5u W=3u nf=1
XMPLTP OUTP OUTN VDD VDD pfet_03v3 L=0.5u W=3u nf=1
XMPRSN SN_N CLK VDD VDD pfet_03v3 L=0.5u W=0.8u nf=1
XMPRSP SN_P CLK VDD VDD pfet_03v3 L=0.5u W=0.8u nf=1
XMPRON OUTN CLK VDD VDD pfet_03v3 L=0.5u W=1.6u nf=1
XMPROP OUTP CLK VDD VDD pfet_03v3 L=0.5u W=1.6u nf=1
.ends

Vsupply0 VDD 0 3.3
Vsupply1 VSS 0 0.0
Vsrc0 CLK 0 PULSE(0 3.3 30n 100p 100p 40n 100n)
Vsrc1 INP 0 PWL(0.000000u 1.651000 0.104000u 1.651000 0.105000u 1.649000 0.204000u 1.649000 0.205000u 1.651500 0.304000u 1.651500 0.305000u 1.648500 0.404000u 1.648500 0.405000u 1.652000 0.504000u 1.652000 0.505000u 1.648000 0.604000u 1.648000 0.605000u 1.652500 0.704000u 1.652500 0.705000u 1.647500 0.804000u 1.647500 0.805000u 1.653000 0.904000u 1.653000 0.905000u 1.647000 1.004000u 1.647000 1.005000u 1.654000 1.104000u 1.654000 1.105000u 1.646000 1.204000u 1.646000 1.205000u 1.655000 1.304000u 1.655000 1.305000u 1.645000 1.470000u 1.645000)
Vsrc2 INN 0 PWL(0.000000u 1.649000 0.104000u 1.649000 0.105000u 1.651000 0.204000u 1.651000 0.205000u 1.648500 0.304000u 1.648500 0.305000u 1.651500 0.404000u 1.651500 0.405000u 1.648000 0.504000u 1.648000 0.505000u 1.652000 0.604000u 1.652000 0.605000u 1.647500 0.704000u 1.647500 0.705000u 1.652500 0.804000u 1.652500 0.805000u 1.647000 0.904000u 1.647000 0.905000u 1.653000 1.004000u 1.653000 1.005000u 1.646000 1.104000u 1.646000 1.105000u 1.654000 1.204000u 1.654000 1.205000u 1.645000 1.304000u 1.645000 1.305000u 1.655000 1.470000u 1.655000)
C_load_OUTP OUTP 0 20f
C_load_OUTN OUTN 0 20f
Xdut VDD VSS INP INN CLK OUTP OUTN strongarm_comparator

.control
set seed=23
option reltol=1e-2 trtol=2
tran 20p 1.4750u
wrdata tran.dat v(OUTP) v(OUTN)
.endc
.end
